US07465748B2
5% Palladium-carbon powder was added to an ethanol-tetrahydrofuran mixed suspension of 4-(4-nitrophenyl)-1,3-oxazol and stirred for 12 hours at room temperature in a hydrogen atmosphere. The reaction solution was filtered through Celite and the filtrate was evaporated under reduced pressure. The resulting crude product is purified with a silica gel column chromatography to obtain [4-(1,3-oxazol-4-yl)phenyl]amine (pale yellow solid). Electron Impact-MS(M)+: 160.

reactant | 4-(4-nitrophenyl)-1,3-oxazol | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=COC1 | C9H6N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | [C].[Pd]
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
product | [4-(1,3-oxazol-4-yl)phenyl]amine | O1C=NC(=C1)C1=CC=C(C=C1)N | C9H8N2O
